data/mechanisms/records/IMS8-EQ8.85c.json
{"mechanism_id": "IMS8-EQ8.85c", "species": [{"species_id": "protonated_methyl_isopropyl_ether", "mapped_smiles": "[CH3:3][CH:1]([CH2:2][1H:7])[O+:4]([1H:6])[CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "isopropyl_cation", "mapped_smiles": "[CH3:3][CH+:1][CH2:2][1H:7]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methanol", "mapped_smiles": "[O:4]([1H:6])[CH3:5]", "role": "spectator", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "n_propyl_cation", "mapped_smiles": "[CH3:3][CH:1]([1H:7])[CH2+:2]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_methyl_n_propyl_ether", "mapped_smiles": "[CH3:3][CH:1]([1H:7])[CH2:2][O+:4]([1H:6])[CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["protonated_methyl_isopropyl_ether"]}, {"state_id": "state_complex_isopropyl", "species_ids": ["isopropyl_cation", "methanol"]}, {"state_id": "state_complex_n_propyl", "species_ids": ["n_propyl_cation", "methanol"]}, {"state_id": "state_products", "species_ids": ["protonated_methyl_n_propyl_ether"]}], "steps": [{"step_id": "step_complex_formation", "from_state": "state_precursor", "to_state": "state_complex_isopropyl", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_1_2_hydride_shift", "from_state": "state_complex_isopropyl", "to_state": "state_complex_n_propyl", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [1, 7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": true}, {"step_id": "step_complex_collapse", "from_state": "state_complex_n_propyl", "to_state": "state_products", "step_class": "ion_neutral_complex_recombination", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "lone_pair", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": true}], "evidence": [{"evidence_id": "ev_step_8_85c_1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_complex_formation", "support_type": "textbook_proposed", "locator": {"page": 199, "equation": "8.85", "figure": null, "panel": "left vertical double arrow (top-left to middle-left)", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.7, "curator_note": "Equation 8.85, LEFT vertical double arrow (first of the three drawn equilibria of the left/bottom branch). Step 1 of 3: the C1-O4 bond of protonated methyl isopropyl ether stretches into the drawn ion-neutral complex 'CH2(H)-CH(CH3)...O(+)(H)CH3' (dashed C...O bond, the labile methyl H drawn out). That complex is non-covalent and is APPROXIMATED here by the fully separated pair isopropyl cation + methanol, because a partial bond has no RDKit bond order; nothing drawn on the page is silently dropped - the complex is disclosed here. Book draws 0 arc(s): Equation 8.85 contains NO curved electron-pushing arrows at all - it is drawn with straight reaction/equilibrium arrows plus dashed 'partial bond' strokes that denote the loose bonds of the ion-neutral complexes. The single encoded move <1> (the C1-O4 pair onto the oxygen) is reconstructed for electron balance (not drawn on the page)."}, {"evidence_id": "ev_step_8_85c_2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_1_2_hydride_shift", "support_type": "textbook_proposed", "locator": {"page": 199, "equation": "8.85", "figure": null, "panel": "lower-left vertical double arrow (middle-left to bottom-left)", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.7, "curator_note": "Equation 8.85, LOWER-LEFT vertical double arrow. Step 2 of 3: inside the ion-neutral complex the isopropyl cation isomerises to the n-propyl cation - the page redraws the complex at the bottom left as 'CH2(+)...O(H)CH3' over 'CH2' over 'CH3', i.e. the '+' has moved to a TERMINAL carbon and the oxygen is now drawn neutral. MECHANISM: 1,2-hydride shift, the H7-C2 sigma pair migrating to the carbenium centre C1 so that the charge lands on C2. The migrating hydrogen is the same [1H:7] atom that Equation 8.85b transfers to oxygen, which is why the page draws it explicitly in the middle-left structure. Methanol is carried through as a spectator so the complex is represented at both ends of the step. Book draws 0 arc(s): Equation 8.85 contains NO curved electron-pushing arrows at all - it is drawn with straight reaction/equilibrium arrows plus dashed 'partial bond' strokes that denote the loose bonds of the ion-neutral complexes. The encoded move <1> is reconstructed for electron balance (not drawn on the page)."}, {"evidence_id": "ev_step_8_85c_3", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_complex_collapse", "support_type": "textbook_proposed", "locator": {"page": 199, "equation": "8.85", "figure": null, "panel": "bottom horizontal double arrow", "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.7, "curator_note": "Equation 8.85, BOTTOM horizontal double arrow. Step 3 of 3: the n-propyl-cation / methanol complex collapses to the covalent oxonium ion drawn at the bottom right, protonated methyl n-propyl ether CH3CH2CH2-O(+)(H)-CH3 (the page draws the C-O bond solid here and the '+' back on the oxygen). MECHANISM: an oxygen lone pair forms the new O4-C2 bond. NET EFFECT of steps 1-3: the drawn skeletal isomerisation of protonated methyl ISOPROPYL ether into protonated methyl n-PROPYL ether, both C4H11O+ at m/z 75.0804, which is how the page shows that C-H bonds of either propyl isomer become available for the proton transfer of Equation 8.85b. Book draws 0 arc(s): Equation 8.85 contains NO curved electron-pushing arrows at all - it is drawn with straight reaction/equilibrium arrows plus dashed 'partial bond' strokes that denote the loose bonds of the ion-neutral complexes. The encoded move <1> is reconstructed for electron balance (not drawn on the page). CONTEXT: the p.199 text introduces Equation 8.85 with 'In the absence of activating functional groups in EE ions, proton-exchange reactions can proceed in ion-molecule complexes (Equations 8.14, 8.85; Terlouw et al. 1986; Bowen 1991); demonstration of such pathways usually requires D-labeling. Here both the hydrogen lability and site receptivity' [continues on p.200] 'are determined by the relative proton affinities of the donor and acceptor sites: PA(C3H6, CH3OH) = 7.8, 7.9 eV. Note that the competitive dissociations of such a proton-bound isomer of (AB + H)+ produce AH+ and BH+, whose mass sum equals AB + 2.' The reacting ion is therefore the protonated molecule (AB+H)+ of methyl isopropyl ether, C4H11O+, curator-computed monoisotopic m/z 75.0804; the page prints no m/z for it. The two percentages printed on the page (40%, 60%) are the BRANCHING abundances of the two competing dissociation channels, not 70 eV EI relative intensities."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "unspecified - the page names no ionization or activation experiment; the reacting ion is the protonated molecule (AB+H)+ of methyl isopropyl ether discussed in the p.199/200 text (Terlouw et al. 1986; Bowen 1991). ionization_method 'CI' is the curator's inference for how an (AB+H)+ ion is made, NOT a statement printed on the page", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 75.0804, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_isomerized_MH", "species_id": "protonated_methyl_n_propyl_ether", "step_id": "step_complex_collapse", "observed_mz": 75.0804, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
